US05102905
The necessary starting material was prepared from 2-methylfuran (16.4 g) by an analogous procedure to that described for furan itself in Example 14, except that in this case the intermediate lithium salt of 2-methylfuran-5-thiol was reacted in dry ether at -20° C. with methyl 2-chloroacetate. The reaction mixture was stirred for 2 days and then partitioned between water (800 ml) and ether (3×400 ml). The organic layers were dried (MgSO4) and evaporated. The residual oil was distilled to give methyl 2-(2-methylfur-5-ylthio)acetate (40.1 g) b.p. 94°-96° C./0.5 mm; NMR (90 MHz): 2.30 (s,3H), 3.45 (s,2H), 3.70 (s,3H), 5.95 (m,1H), 6.45 (d,1H).

reactant | 2-methylfuran | 16.4 g | CC=1OC=CC1 | C5H6O
reactant | furan | O1C=CC=C1 | C4H4O
reactant | lithium | [Li] | Li
reactant | 2-methylfuran-5-thiol | CC=1OC(=CC1)S | C5H6OS
reactant | methyl 2-chloroacetate | ClCC(=O)OC | C3H5ClO2
solvent | ether | CCOCC | C4H10O
product | methyl 2-(2-methylfur-5-ylthio)acetate | 40.1 g | CC=1OC(=CC1)SCC(=O)OC | C8H10O3S
